US07901594B2
2,3-Bis(2-hexynyl)-1,4,5,6,7,8-hexapropylanthracene
2,3-Bis(bromomethyl)-1,4,5,6,7,8-hexapropylanthracene obtained in REFERENCE EXAMPLE 4 was employed. N,N′-Dimethylproyleneurea (DMPU) and 1-pentynyl lithium were added to the solution of 2,3-bis(bromomethyl)-1,4,5,6,7,8-hexapropylanthracene in THF. The reaction mixture was stirred at room temperature for an hour. The reaction was quenched with 3N Hydrochloric acid. Next, the reaction mixture was extracted with ether. After washing with sodium hydrogencarbonate aqueous solution and brine, the extract was dried over anhydrous magnesium sulfate. After the extract was concentrated under reduced pressure, column chromatography with silica gel as the packing material was performed using hexane. Recrystallization from methanol gave 6.372 g (12.338 mmols) of the title compound as a yellow solid. The isolation yield was 87%.

reactant | N,N′-Dimethylproyleneurea | CN1CCCN(C1=O)C | C6H12N2O
reactant | 1-pentynyl lithium | C(#CCCC)[Li]
reactant | 2,3-bis(bromomethyl)-1,4,5,6,7,8-hexapropylanthracene | BrCC1=C(C2=CC3=C(C(=C(C(=C3C=C2C(=C1CBr)CCC)CCC)CCC)CCC)CCC)CCC | C34H48Br2
reactant | THF | C1CCOC1 | C4H8O
product | 2,3-Bis(2-hexynyl)-1,4,5,6,7,8-hexapropylanthracene | 12.338 mmols, 6.372 g, yield was 87% | C(C#CCCC)C1=C(C2=CC3=C(C(=C(C(=C3C=C2C(=C1CC#CCCC)CCC)CCC)CCC)CCC)CCC)CCC | C44H62
